US05990133
5-Methylthio-6-trifluoromethyl-1-(3-ethoxycarbonylphenyl carbamoyl)-indoline (D54)
This was prepared in 74% yield by urea formation between ethyl 3-aminobenzoate and 5-methylthio-6-trifluoromethyl indoline, (D7) using carbonyl diimidazole as the coupling agent.

reactant | urea | NC(=O)N | CH4N2O
reactant | ethyl 3-aminobenzoate | NC=1C=C(C(=O)OCC)C=CC1 | C9H11NO2
reactant | 5-methylthio-6-trifluoromethyl indoline | CSC=1C=C2CCNC2=CC1C(F)(F)F | C10H10F3NS
reactant | carbonyl diimidazole | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
product | 5-Methylthio-6-trifluoromethyl-1-(3-ethoxycarbonylphenyl carbamoyl)-indoline | 74% yield | CSC=1C=C2CCN(C2=CC1C(F)(F)F)C(NC1=CC(=CC=C1)C(=O)OCC)=O | C20H19F3N2O3S
